US05559111
e) 3(S)-Isopropyl-5(S)-{1(S)-azido-3(S)-isopropyl-4(R,S)-isobutyryloxy-4-[4-methoxy-3-(2-methoxymethoxyethyl)-phenyl]-butyl}-tetrahydrofuran-2-one
0.25 ml of pyridine, 0.31 ml of isobutyric acid anhydride and 15 mg of dimethylamino-pyridine are added to a solution of 300 mg of 3(S)-isopropyl-5(S)-{1(S)-azido-3(S)-isopropyl-4(R,S)-hydroxy-4-[4-methoxy-3-(2-methoxymethoxyethyl)-phenyl]-butyl}-tetrahydrofuran-2-one in 3.5 ml of dichloromethane, and the mixture is stirred for 80 hours at room temperature. The reaction mixture is then partitioned between dichloromethane (3x), water (1x) and saturated sodium chloride solution (2x). The combined organic phases are dried over magnesium sulfate and concentrated by evaporation, and the residue is purified by FC (30 g of silica gel, hexane/ethyl acetate=8:2), yielding the title compound: Rf (hexane/ethyl acetate=8:2)=0.26; HPLC Rt =21.38 minutes and 21.76 minutes (diastereoisomeric mixture).

reactant | pyridine | 0.25 ml | N1=CC=CC=C1 | C5H5N
reactant | isobutyric acid anhydride | 0.31 ml | C(C(C)C)(=O)OC(C(C)C)=O | C8H14O3
reactant | dimethylamino-pyridine | 15 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 3(S)-isopropyl-5(S)-{1(S)-azido-3(S)-isopropyl-4(R,S)-hydroxy-4-[4-methoxy-3-(2-methoxymethoxyethyl)-phenyl]-butyl}-tetrahydrofuran-2-one | 300 mg | C(C)(C)[C@H]1C(O[C@@H](C1)[C@H](C[C@H](C(C1=CC(=C(C=C1)OC)CCOCOC)O)C(C)C)N=[N+]=[N-])=O | C25H39N3O6
solvent | dichloromethane | 3.5 ml | ClCCl | CH2Cl2
product | 3(S)-Isopropyl-5(S)-{1(S)-azido-3(S)-isopropyl-4(R,S)-isobutyryloxy-4-[4-methoxy-3-(2-methoxymethoxyethyl)-phenyl]-butyl}-tetrahydrofuran-2-one | C(C)(C)[C@H]1C(O[C@@H](C1)[C@H](C[C@H](C(C1=CC(=C(C=C1)OC)CCOCOC)OC(C(C)C)=O)C(C)C)N=[N+]=[N-])=O | C29H45N3O7
